US08426420B2
ii) 4-((S)-2-Benzyloxycarbonylamino-pent-4-enoyl)-piperazine-1-carboxylic acid ethyl ester
A solution of 767 mg 4-((S)-2-tert-Butoxycarbonylamino-pent-4-enoyl)-piperazine-1-carboxylic acid ethyl ester in 5 ml dichloromethane and 1.6 ml TFA was stirred for 2 h. The reaction mixture was concentrated, the residue dissolved in 4 ml dioxane/water (1:1) and 661 mg NaHCO3 and 688 mg N-(Benzyloxycarbonyloxy)succinimide were added. After 12 h the reaction mixture was diluted with ethyl acetate and washed with water, 0.1 M HCl and half-saturated aqueous NaHCO3 solution. The crude product obtained after evaporation of the solvent was purified by chromatography on silica using ethyl acetate/heptane 1:2 to 2:1 as eluent. Yield: 640 mg.

reactant | 4-((S)-2-tert-Butoxycarbonylamino-pent-4-enoyl)-piperazine-1-carboxylic acid ethyl ester | 767 mg | C(C)OC(=O)N1CCN(CC1)C([C@H](CC=C)NC(=O)OC(C)(C)C)=O | C17H29N3O5
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | TFA | 1.6 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | 4-((S)-2-Benzyloxycarbonylamino-pent-4-enoyl)-piperazine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1CCN(CC1)C([C@H](CC=C)NC(=O)OCC1=CC=CC=C1)=O | C20H27N3O5
